US05523421
By following the procedure of Example 1 by employing 4.22 g(27.4 mmole) of 3,4-dihydroxybenzoic acid, 1.1 g (27.5 mmole) of sodium hydroxide and 4 g(24.9 mmole) of chlorokojic acid, there was obtained 3.0 g(43.3%) of 2-(3,4-dihydroxybenzoyl)oxymethyl-5-hydroxy-4H-pyran-4-one as as a solid.

reactant | 3,4-dihydroxybenzoic acid | 27.4 mmole, 4.22 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | sodium hydroxide | 27.5 mmole, 1.1 g | [OH-].[Na+]
reactant | chlorokojic acid | 24.9 mmole, 4 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
product | 2-(3,4-dihydroxybenzoyl)oxymethyl-5-hydroxy-4H-pyran-4-one | 3.0 g, 43.3% | OC=1C=C(C(=O)OCC=2OC=C(C(C2)=O)O)C=CC1O | C13H10O7
